US07432378B2
4,6-Dimethyl-2-{2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridin-4-yl}-1H-benzoimidazole
4,6-Dimethyl-2-{2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridin-4-yl}-1H-benzoimidazole. To a stirred solution of 2-[4-(1-methyl-piperidin-4-yl)-butoxy]-isonicotinonitrile (440 mg, 1.61 mmol, 1.0 equiv) in toluene (5.0 mL) at 0° C. was added 1.0 M diisobutylaluminum hydride in toluene (2.41 mL, 2.41 mmol, 1.5 equiv). After 3 h, methanol (8 mL) and 1.0 M H2SO4 (5 mL) were added. The mixture was stirred for 30 min, and then 1.0 M NaOH (10 mL) was added, followed by satd. aq. sodium potassium tartrate (40 mL) and dichloromethane (100 mL). After stirring for 30 min, the mixture was extracted with chloroform (3×50 mL) and the combined extracts were washed with brine, dried (Na2SO4), filtered, and concentrated. The residue was partially purified by Method 2 to afford 318 mg of a mixture of 2-(4-piperidin-4-yl-butoxy)-pyridine-4-carbaldehyde and several other unidentified products. A portion of the crude of 2-(4-piperidin-4-yl-butoxy)-pyridine-4-carbaldehyde (100 mg), 3,5-dimethyl-benzene-1,2-diamine (70 mg), and Na2S2O5 (93 mg) were stirred in DMF (3 mL) at 90° C. for 18 h. The reaction mixture was loaded directly on silica gel and purified according to Method 2, which afforded 38 mg of the title compound. MS (electrospray): mass calculated for C24H32N4O, 392.26; m/z found 393.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.25 (d, J=5.3 Hz, 1H), 7.62 (dd, J=4.5, 1.0 Hz, 1H), 7.48 (s, 1H), 7.24 (s, 1H), 6.95 (s, 1H), 4.34 (t, J=6.6 Hz, 2H), 2.91-2.83 (m, 2H), 2.58 (s, 3H), 2.43 (s, 3H), 2.25 (s, 3H), 2.07-1.95 (m, 2H), 1.86-1.69 (m, 5H), 1.57-1.18 (m, 6H). The following compounds in Examples 146-151 were prepared according to the methods described for Example 145.

reactant | 2-(4-piperidin-4-yl-butoxy)-pyridine-4-carbaldehyde | 100 mg | N1CCC(CC1)CCCCOC1=NC=CC(=C1)C=O | C15H22N2O2
reactant | 3,5-dimethyl-benzene-1,2-diamine | 70 mg | CC1=C(C(=CC(=C1)C)N)N | C8H12N2
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4,6-Dimethyl-2-{2-[4-(1-methyl-piperidin-4-yl)-butoxy]-pyridin-4-yl}-1H-benzoimidazole | 38 mg | CC1=CC(=CC=2NC(=NC21)C2=CC(=NC=C2)OCCCCC2CCN(CC2)C)C | C24H32N4O
